US07326791B2
3-chloro-N-(5-chloro-1H-benzimidazol-2-ylmethyl)-4-(3-methylpiperidin-1-ylcarbonyl)benzamide
Prepared analogously to Example 1d from 3-chloro-N-(5-chloro-1H-benzimidazol-2-ylmethyl)-4-carboxybenzamide, 3-methylpiperidine, TBTU, and triethylamine in DMSO at ambient temperature. HPLC-MS results: retention time: 3.87 minutes; C22H22Cl2N4O2 (445.35); mass spectrum: (M+H)+=445.2.

reactant | 3-chloro-N-(5-chloro-1H-benzimidazol-2-ylmethyl)-4-carboxybenzamide | ClC=1C=C(C(=O)NCC2=NC3=C(N2)C=CC(=C3)Cl)C=CC1C(=O)O | C16H11Cl2N3O3
reactant | 3-methylpiperidine | CC1CNCCC1 | C6H13N
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | DMSO | CS(=O)C | C2H6OS
product | 3-chloro-N-(5-chloro-1H-benzimidazol-2-ylmethyl)-4-(3-methylpiperidin-1-ylcarbonyl)benzamide | ClC=1C=C(C(=O)NCC2=NC3=C(N2)C=CC(=C3)Cl)C=CC1C(=O)N1CC(CCC1)C | C22H22Cl2N4O2
